US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(9H-carbazol-2-yl)-3-phenylprop-2-en-1-one and dimethyl malonate, dimethyl 2-(3-(9H-carbazol-2-yl)-3-oxo-1-phenylpropyl)malonate was obtained as colourless solid.

reactant | 1-(9H-carbazol-2-yl)-3-phenylprop-2-en-1-one | C1=C(C=CC=2C3=CC=CC=C3NC12)C(C=CC1=CC=CC=C1)=O | C21H15NO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(3-(9H-carbazol-2-yl)-3-oxo-1-phenylpropyl)malonate | C1=C(C=CC=2C3=CC=CC=C3NC12)C(CC(C1=CC=CC=C1)C(C(=O)OC)C(=O)OC)=O | C26H23NO5
